US08431607B2
Triethylamine (683 mg, 6.75 mmol) is added to a solution of piperidine (274 mg, 3.22 mmol) and 2-chloroethanesulfonyl chloride (500 mg, 3.07 mmol) in dichloromethane (8 mL). The reaction is stirred for 2 h at room temperature. The reaction is diluted with ethyl acetate, sat. sodium bicarbonate solution is added. The organic layer is washed with brine and dried with MgSO4. The solvents is removed under vacuum to afford crude 1-(vinylsulfonyl)piperidine which is used directly in the next step without further purification. HPLC-MS calculated for C7H14NO2S (M+H+) 176.0, found 176.0.

reactant | Triethylamine | 6.75 mmol, 683 mg | C(C)N(CC)CC | C6H15N
reactant | piperidine | 3.22 mmol, 274 mg | N1CCCCC1 | C5H11N
reactant | 2-chloroethanesulfonyl chloride | 3.07 mmol, 500 mg | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(vinylsulfonyl)piperidine | C(=C)S(=O)(=O)N1CCCCC1 | C7H13NO2S
